US08389717B2
a) 2-Chloro-4-methoxy-6-methyl-[1,3,5]triazine
A solution of 2,4-dichloro-6-methoxy-1,3,5-Triazine (1.0 g, 5.56 mmol) in 10 ml of dioxane was treated with a 1.2 molar solution of dimethylzinc in toluene (4.63 ml, 5.56 mmol). The mixture was stirred overnight at room temperature, poured into 100 ml of water and extracted with ethyl acetate. Chromatography on silica gel using heptane/ethyl acetate 9:1 v/v gave the title compound (225 mg, 25%) as a colorless solid.

reactant | 2,4-dichloro-6-methoxy-1,3,5-Triazine | 5.56 mmol, 1.0 g | ClC1=NC(=NC(=N1)Cl)OC | C4H3Cl2N3O
reactant | dimethylzinc | C[Zn]C
reactant | toluene | 5.56 mmol, 4.63 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | 100 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-4-methoxy-6-methyl-[1,3,5]triazine | 225 mg, 25% | ClC1=NC(=NC(=N1)OC)C | C5H6ClN3O
